US03966736
In the manner given in Example 25, to 6,7-difluoro-2,9-dihydro-9-[ (dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]benzodiazepin-3-one in dimethylforamide is added a solution of sodium hydrided in mineral oil. The mixture is allowed to react at about 95°C. for 40 minutes and after cooling [2-(4-methylpiperazino)-ethyl]chloride in xylene is added. The mixture is kept at 95°-100° C. for a period of 22 hours, evaporated and worked up as in example 25 to give 6,7-difluoro-2.9-dihydro-2-[2-(4-methylpiperazino)ethyl]-9-[(dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]-benzodiazepin-3-one.

reactant | 6,7-difluoro-2,9-dihydro-9-[ (dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]benzodiazepin-3-one | FC1=CC2=C(N(C3=C(C=4N2C(NN4)=O)C=CC=N3)C(CN(CCC)CCC)=O)C=C1F | C21H22F2N6O2
reactant | sodium | [Na] | Na
reactant | [2-(4-methylpiperazino)-ethyl]chloride | CN1CCN(CC1)CCCl | C7H15ClN2
solvent | dimethylforamide | CN(C=O)C | C3H7NO
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 6,7-difluoro-2.9-dihydro-2-[2-(4-methylpiperazino)ethyl]-9-[(dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]-benzodiazepin-3-one | FC1=CC2=C(N(C3=C(C=4N2C(N(N4)CCN4CCN(CC4)C)=O)C=CC=N3)C(CN(CCC)CCC)=O)C=C1F | C28H36F2N8O2
